US07799779B2
b) 5-Bromo-2-ethylbenzonitrile
9.74 ml of 2-ethylbenzonitrile are added dropwise to 100 g of Na-X zeolite (Linde 13X, STREM) with vigorous stirring. After the exothermic reaction, 5.6 ml of bromine are added dropwise at 55° C., add vigorous stirring of the mixture is continued. The temperature is kept at 45-50° C., by means of an ice bath. After the addition is complete, the ice bath is removed, and the mixture is stirred at 50° C. for 20 hours. 300 ml of methanol are added to the reaction mixture while stirring and the suspension is clarified by filtration through Hyflow. The filtrate is evaporated and the residue is partitioned between 100 ml of ethyl acetate and 50 ml of saturated sodium bicarbonate solution. The organic phase is dried with sodium sulphate, filtered and evaporated. The title compound is obtained as a beige crystalline solid from the residue by flash chromatography. Rt=4.87.

reactant | 2-ethylbenzonitrile | 9.74 ml | C(C)C1=C(C#N)C=CC=C1 | C9H9N
reactant | bromine | 5.6 ml | BrBr | Br2
product | 5-Bromo-2-ethylbenzonitrile | BrC=1C=CC(=C(C#N)C1)CC | C9H8BrN
